US05162326
6-(N-Methylbutylamino)-3-propyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]pyrimidine-2,4(1H,3H)-dione
A solution of 6-chloro-3-propyl-1-[[2'-(N-trityltetrazol-5-yl)biphenyl-4-yl]methyl]pyrimidine-2,4(1H,3H)-dione (0.5 g) and N-methylbutylamine (0.2 g) in ethanol (10 ml) was heated under reflux for 8 hours. The reaction mixture was concentrated to dryness and then the residue was extracted with methylene chloride-dilute hydrochloric acid. The organic layer was washed with water, and evaporated to dryness. The resulting residue was purified by column chromatography on silica gel to give pale yellow amorphous powders (0.26 g, 73%).

reactant | 6-chloro-3-propyl-1-[[2'-(N-trityltetrazol-5-yl)biphenyl-4-yl]methyl]pyrimidine-2,4(1H,3H)-dione | 0.5 g | ClC1=CC(N(C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)CCC)=O | C40H33ClN6O2
reactant | N-methylbutylamine | 0.2 g | CNCCCC | C5H13N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 6-(N-Methylbutylamino)-3-propyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]pyrimidine-2,4(1H,3H)-dione | 0.26 g, 73% | CN(C1=CC(N(C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)=O)CCC)=O)CCCC | C26H31N7O2
